US08058299B2
A mixture of 2,4-difluoro-nitro-benzene (2.2 mL, 20 mmol), piperazine-1-carboxylic acid tert-butyl ester (3.7 g, 20 mmol), and triethylamine (10 mL) in anhydrous DMF (20 mL) was stirred at 90° C. for 16 hr. After the reaction, the reaction mixture was mixed with water and ethyl acetate, and two layers were separated. The aqueous layer was extracted with ethyl acetate twice. Organic layers were collected, combined, washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was applied on a silica gel flash column with ethyl acetate and hexanes as eluenting solvents to give 4-(3-fluoro-4-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (2.1 gm, 32%) as a brown solid. LCMS calcd for C15H20FN3O4 (m/e) 325, obsd 326 (M+H).

reactant | 2,4-difluoro-nitro-benzene | 20 mmol, 2.2 mL | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | piperazine-1-carboxylic acid tert-butyl ester | 20 mmol, 3.7 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-fluoro-4-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 2.1 gm, 32% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])F | C15H20FN3O4
